US09238647B2
Step D: Methyl 5,6-diamino-4′-fluorobiphenyl-3-carboxylate
To a solution of methy 6-amino-4′-fluoro-5-nitrobiphenyl-3-carboxylate (0.42 g, 1.44 mmol) in N,N-dimethylformamide (4.8 mL) was added tin(1) chloride dihydrate (1.3 g, 5.8 mmol). The mixture was stirred at ambient temperature for 4 h and stored in the refrigerator for 18 h. Saturated ammonium chloride, water, and ethyl acetate were added. The mixture was extracted with ethyl acetate (3×). The combined organic layer was dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (0.17 g): LC-MS [M+1]=261.2.

reactant | methy 6-amino-4′-fluoro-5-nitrobiphenyl-3-carboxylate | 1.44 mmol, 0.42 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)F)C(=O)OC)[N+](=O)[O-] | C14H11FN2O4
reactant | tin(1) chloride dihydrate | 5.8 mmol, 1.3 g | O.O.[Sn]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4.8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 5,6-diamino-4′-fluorobiphenyl-3-carboxylate | 0.17 g | NC=1C=C(C=C(C1N)C1=CC=C(C=C1)F)C(=O)OC | C14H13FN2O2
